US06852726B2
Step 1: 7-Chloro-2-methyl-3-methylsulfanyl-1H-indole
Using the procedure described in J. Amer. Chem. Soc., 1974, 96 (17) 5495 , 2-chloroaniline (1.27 g, 10 mmole) was dissolved in dichloromethane (35 ml) and cooled to −65° C. To this solution was added dropwise with vigorous stirring, t-butyl hypochlorite (1.08 g, 10 mmole) in dichloromethane (5 ml). After 10 minutes 1-methylsulfanyl-propan-2-one (1.04 g, 10 mmole) dissolved in dichloromethane (5 ml) was added. The mixture was stirred at −65° C. for 1 h more. At this point triethylamine (1.01 g, 10 mmole) dissolved in dichloromethane (5 ml) was added. Upon completion of the addition, the reaction mixture was allowed to reach ambient temperature. Water was added and the layers were separated, the organic layer was dried over magnesium sulfate, filtered and the solvent evaporated to dryness. The residue was purified by column chromatography on silica gel using a mixture of hexane-ethyl acetate (95:5) to elute 7-chloro-2-methyl-3-methylsulfanyl-1H-indole (1.94 g) as an oil.

reactant | 2-chloroaniline | 10 mmole, 1.27 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | t-butyl hypochlorite | 10 mmole, 1.08 g | ClOC(C)(C)C | C4H9ClO
reactant | 1-methylsulfanyl-propan-2-one | 10 mmole, 1.04 g | CSCC(C)=O | C4H8OS
reactant | triethylamine | 10 mmole, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 7-Chloro-2-methyl-3-methylsulfanyl-1H-indole | ClC=1C=CC=C2C(=C(NC12)C)SC | C10H10ClNS
